US07576165B2
Synthesis of 2-(4-vinylbenzylthio)pyrimidine
10 mmole of 2-mercaptopyrimidine was dissolved in 20 ml of ethanol in stirring. 10 mole of EtOK was added to the solution, stirred for 5 minutes. Then, 10 mmole of 4-vinylbenzene chloride was added, and stirred overnight. The white precipitate was removed by filtration, the solvent in the filtrate was removed in vacuum. The obtained liquid was separated with a Si gel column (solvents: 1 ethylacetate/3 hexane). 2.1 g product was obtained. Yield: 92%. 1H NMR (CD3Cl): 8.51 (2H, d, JH-H=4.60), 7.38 (4H, m), 6.94 (1H, t, JH-H=4.60), 6.68 (1H, m), 5.70 (1H, d, JH-H=17.58), 5.21 (1H, d, JH-H=10.95), 4.40 (2H, s).

reactant | 2-mercaptopyrimidine | 10 mmole | SC1=NC=CC=N1 | C4H4N2S
reactant | EtOK | 10 mole | C(C)O[K]
reactant | 4-vinylbenzene chloride | 10 mmole | [Cl-].C(=C)C1=CC=CC=C1
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4-vinylbenzylthio)pyrimidine | 2.1 g, Yield: 92% | C(=C)C1=CC=C(CSC2=NC=CC=N2)C=C1 | C13H12N2S
